US07319104B2
2-[3-(3-{1,3-Benzoxazol-2-yl[4-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)benzyl]amino}propyl)phenoxy]-2-methylpropanoic acid
Condensation of tert-butyl 2-[3-(3-{[4-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)benzyl]amino}propyl)phenoxy]-2-methylpropanoate with 1.5 eq of 2-chlorobenzoxazole, as per general procedure E (conditions: 3 eq DIEA, THF, 100C, 8 hr), followed by standard TFA hydrolysis (general procedure 1) provided the title compound.

reactant | tert-butyl 2-[3-(3-{[4-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)benzyl]amino}propyl)phenoxy]-2-methylpropanoate | C1(CC1)C1=NC(=NO1)C1=CC=C(CNCCCC=2C=C(OC(C(=O)OC(C)(C)C)(C)C)C=CC2)C=C1 | C29H37N3O4
reactant | 2-chlorobenzoxazole | 1.5 eq | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | DIEA | 3 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | C1CCOC1 | C4H8O
product | 2-[3-(3-{1,3-Benzoxazol-2-yl[4-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)benzyl]amino}propyl)phenoxy]-2-methylpropanoic acid | O1C(=NC2=C1C=CC=C2)N(CCCC=2C=C(OC(C(=O)O)(C)C)C=CC2)CC2=CC=C(C=C2)C2=NOC(=N2)C2CC2 | C32H32N4O5
